US07338951B2
Pentafluoropyridine (3.4 g; 20 mmol) was dissolved in dichloromethane (50 mL) and chilled in an ice bath. To the solution was added morpholine (3.48 g; 40 mmol) and the reaction was allowed to warm to room temperature with stirring overnight. The organic phase was washed with saturated ammonium chloride solution (2×20 mL), dried over magnesium sulfate, evaporated, and purified by column chromatography to give 4-(2,3,5,6-tetrafluoro-pyridin-4-yl)-morpholine.

reactant | Pentafluoropyridine | 20 mmol, 3.4 g | FC1=C(C(=C(C(=N1)F)F)F)F | C5F5N
reactant | morpholine | 40 mmol, 3.48 g | N1CCOCC1 | C4H9NO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-(2,3,5,6-tetrafluoro-pyridin-4-yl)-morpholine | FC1=NC(=C(C(=C1F)N1CCOCC1)F)F | C9H8F4N2O
